US07691843B2
To a stirred solution of 4-bromo-2-trifluoromethoxybenzenethiol (1.76 g, 6.44 mmol) in DMF (10 mL) at 0° C. was added NaH (60% in mineral oil, 283 mg, 7.08 mmol) in small portions and the reaction mixture was slowly warmed to 23° C. over 30 minutes. The reaction vessel was evacuated and flushed with trifluoromethyl iodide gas and finally a balloon of trifluoromethyl iodide gas was attached and continued the reaction at 23° C. till the gas is consumed. The reaction mixture was heated to 80° C. with stirring for 2 h, cooled to room temperature and stirred overnight. The reaction mixture was poured into 1.0 N HCl (100 mL) and extracted with ethyl ether. The combined organic layer was washed with brine (80 mL), dried MgSO4 and concentrated in vacuo to get the crude product. This was purified by silica gel column chromatography using pentane as a eluent to afford 4-bromo-2-trifluoromethoxy-1-trifluoromethylthiobenzene (1.12 g, 51%).

reactant | 4-bromo-2-trifluoromethoxybenzenethiol | 6.44 mmol, 1.76 g | BrC1=CC(=C(C=C1)S)OC(F)(F)F | C7H4BrF3OS
reactant | NaH | 7.08 mmol, 283 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-trifluoromethoxy-1-trifluoromethylthiobenzene | 1.12 g, 51% | BrC1=CC(=C(C=C1)SC(F)(F)F)OC(F)(F)F | C8H3BrF6OS
